* ============================================================================
* 808 Rimshot — Single Bridged-T Resonator (Behavioral State-Space Equivalent)
* PedalKernel SPICE Golden Reference
*
* TOPOLOGY NOTE: The 808 rimshot uses a single bridged-T Sallen-Key resonator
* at ~1026 Hz with low Q (~2.78), producing a very short click/transient.
* Same behavioral state-space approach as 808_kick.spice.
*
* PARAMETERS (from 808_rimshot.pedal — pedalkernel-pro, private):
*   R1 = R2 = 47kΩ, C1 = C2 = 3.3nF
*   f0 = 1 / (2π·R·C) = 1 / (2π·47k·3.3n) = 1026.1 Hz
*   r_crit = R1+R2+R1·(C1/C2) = 47k+47k+47k = 141kΩ
*   R_fb = 220kΩ  →  Q = 220 / (220−141) = 2.78
*   zeta = 1/(2·Q) = 0.1799
*   omega0 = 2π·f0 = 6447.45 rad/s
*   2·zeta·omega0 = 2315.22
*   τ ≈ Q / (π·f0) ≈ 0.86 ms  (very short click, authentic TR-808 RS character)
*
* STATE-SPACE MODEL:
*   dx/dt  = ω₀ · v
*   dv/dt  = −ω₀·x − 2ζω₀·v + ω₀·u(t)
*   y = x
*
* IMPLEMENTED VIA:
*   Two unit capacitors (C = 1F) + G-sources (conductances in Siemens):
*     Cx·dv_x/dt = G_xv · v_v      (G_xv = ω₀ = 6447.45)
*     Cv·dv_v/dt = −G_vx·v_x − G_vv·v_v + G_vin·v_in
*                 (G_vx = 6447.45, G_vv = 2315.22, G_vin = 6447.45)
*
* OUTPUT: v_out = v_x (resonator state)
*   The physical circuit has an inverting buffer (Ri=10k, Rf=68k → −6.8×),
*   but for WDF-vs-SPICE comparison we compare the resonant waveform shape.
*
* MEASUREMENT NOTE: The rimshot decays in <1ms. The impulse signal is used
*   with warmup_trim_ms=0.0. Spectral metric is valid in [0, 5ms] window.
*
* VERIFIED: f0 = 1026.1 Hz (theory), Q = 2.78, τ ≈ 0.86 ms
* MODELING NOTE: Q=2.78 is below the authentic TR-808 rimshot (~1500 Hz, Q~5)
*   but matches the .pedal circuit values. WDF loading raises measured frequency
*   by ~1.44× (from 1026 Hz to ~1477 Hz per .pedal comment). This is a known
*   WDF bridged-T bias-loading effect documented in ENGINE_BUG_BRIDGED_T_BIAS_LOADING.md.
* ============================================================================

* --- State variable: v_x (position / oscillator voltage) ---
Cx v_x 0 1

* G-source: dv_x/dt = omega0 * v_v
Gx_v 0 v_x v_v 0 6447.45

* --- State variable: v_v (velocity, scaled by 1/omega0) ---
Cv v_v 0 1

* G-source: −omega0 * v_x  (restoring force)
Gv_x 0 v_v v_x 0 -6447.45

* G-source: −2·zeta·omega0 * v_v  (damping)
Gv_v 0 v_v v_v 0 -2315.22

* G-source: omega0 * trigger input
Gv_in 0 v_v v_in 0 6447.45

* --- Output mapping ---
Bout v_out 0 V = v(v_x)
Rload_out v_out 0 100k
